US04467125
2-Nitro-3-Methyl Benzotrifluoride
The nitration vessel is charged with 250 gms (3.97 moles) of 98% HNO3 and cooled to about -18° C. Then 100 gms (0.62 moles) of 3-methyl benzotrifluoride is added dropwise with stirring and the temperature is maintained within the range of about -16° C. to about -22° C. The addition of the benzotrifluoride takes about 2 hours and 15 minutes. After it has been added, stirring is continued for about another 15 minutes. The reaction mixture is poured into ice water and methylene chloride is added to phase separate the nitration products. The organic layer is washed with sodium carbonate solution. The solvent is then stripped on a rotary evaporator. Yield is 127.5 gms of oil comprising 43% 2-nitro isomer; 31% 4-nitro isomer, 24% 6-nitro isomer and about 1% of the 5-nitro isomer as determined by glc and 19F NMR.

reactant | HNO3 | 3.97 moles, 250 gms | [N+](=O)(O)[O-] | HNO3
reactant | 3-methyl benzotrifluoride | 0.62 moles, 100 gms | CC=1C=C(C=CC1)C(F)(F)F | C8H7F3
reactant | benzotrifluoride | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Nitro-3-Methyl Benzotrifluoride | [N+](=O)([O-])C1=C(C=CC=C1C)C(F)(F)F | C8H6F3NO2
